US05665719
To a stirred, 0° C. solution of 4-piperidinone hydrochloride hydrate (50 g; 0.33 mol) in DMF (500 mL) was added di-t-butyldicarbonate (64 g; 0.29 mol) followed by a dropwise addition of DIEA (63 mL; 0.36 mol). After the addition of DIEA was complete, the reaction was allowed to gradually warm to ambient temperature over 4 h and stirring was continued for 20 h. The DMF was removed under reduced pressure and the residue was dissolved in EtOAc (1000 mL) and washed with 5% aqueous citric acid (2×500 mL), water (250 mL), and saturated aqueous NaHCO3 (500 mL). The EtOAc layer was dried (Na2SO4), filtered, and the EtOAc was removed under reduced pressure. The residue was boiled in ether (ca. 250 mL) until the solid had dissolved. Cooling gave N-t-butyloxycarbonyl-4-piperidinone as white crystals (47 g; 80% yield).

reactant | 4-piperidinone hydrochloride hydrate | 0.33 mol, 50 g | O.Cl.N1CCC(CC1)=O
reactant | di-t-butyldicarbonate | 0.29 mol, 64 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 0.36 mol, 63 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | N-t-butyloxycarbonyl-4-piperidinone | 80% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
